US04045446
Preparation of the Dimethyl Acetal 2-[1-Ethyl-3-(4-methoxybenzothiazol-2-yl)ureido]acetaldehyde
4-Methoxybenzothiazol-2-yl isocyanate dimer (0.1 mole), the dimethyl acetal of 2-ethylaminoacetaldehyde (0.2 mole) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is stirred at ambient temperatures for a period of about one hour. After this time the reaction mixture is filtered, and the filtrate is stripped of solvent to yield the desired product the dimethyl acetal of 2-[1-ethyl-3-(4-methoxybenzothiazol-2-yl)ureido]acetaldehyde as the residue.

reactant | 4-Methoxybenzothiazol-2-yl isocyanate | COC1=CC=CC2=C1N=C(S2)N=C=O | C9H6N2O2S
reactant | 2-ethylaminoacetaldehyde | 0.2 mole | C(C)NCC=O | C4H9NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-[1-ethyl-3-(4-methoxybenzothiazol-2-yl)ureido]acetaldehyde | C(C)N(C(=O)NC=1SC2=C(N1)C(=CC=C2)OC)CC=O | C13H15N3O3S
